US05607950
4-(2-Carbamoyl-2,2-diphenylethyl)-1-phenethylpiperidine
A mixture of 4-(2-carbamoyl-2,2-diphenylethyl)piperidine (300 mg, 0.97 mmol) (Preparation 3), phenethyl bromide (198 mg, 1.07 mmol) and potassium carbonate (400 mg) in acetonitrile (10 ml) was heated under reflux for 6 hours, allowed to cool to room temperature and evaporated. The residue was partitioned between dichloromethane and 10% aqueous potassium carbonate solution and the aqueous layer was extracted twice into dichloromethane. The combined organic layers were dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 0-10% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (195 mg, 49%) as a colourless foam, which was characterised as a hydrate.

reactant | 4-(2-carbamoyl-2,2-diphenylethyl)piperidine | 0.97 mmol, 300 mg | C(N)(=O)C(CC1CCNCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O
reactant | phenethyl bromide | 1.07 mmol, 198 mg | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(2-Carbamoyl-2,2-diphenylethyl)-1-phenethylpiperidine | 195 mg, 49% | C(N)(=O)C(CC1CCN(CC1)CCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H32N2O
